US04085225
4-Cyano-4'-trifluoromethylbutyrophenone O-(2-aminoethyl) oxime hydrochloride.
5.6 Mmol (1.35 g) of 4-cyano-4'-trifluoromethylbutyrophenone, 5.6 mmol (0.84 g) of 2 aminooxyethylamine dihydrochloride and 0.8 ml of pyridine were refluxed in 20 ml of absolute ethanol for 2.5 hours. The processing was equal to that of example 1. The resulting free base was dissolved in absolute ethanol and an equivalent quantity of 2N alcoholic hydrochloric acid was added. The ethanol was then removed in vacuo and the residue was crystallized twice from ethanol/ether (1:5). The melting point of the resulting title compound was 136°-136.5° C.

reactant | 4-cyano-4'-trifluoromethylbutyrophenone | 5.6 Mmol, 1.35 g | C(#N)CCCC(=O)C1=CC=C(C=C1)C(F)(F)F | C12H10F3NO
reactant | aminooxyethylamine dihydrochloride | Cl.Cl.NOCCN
reactant | pyridine | 0.8 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-Cyano-4'-trifluoromethylbutyrophenone O-(2-aminoethyl) oxime hydrochloride | Cl.NCCON=C(CCCC#N)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C14H16F3N3O.ClH/c15-14(16,17)12-6-4-11(5-7-12)13(3-1-2-8-18)20-21-10-9-19;/h4-7H,1-3,9-10,19H2;1H
